US07220745B2
2,6-Dichloro-N-hydroxybenzenecarboximidoyl chloride (1.25 g, 5.6 mmol) and 2,2-dichloro-N-(2-ethynylphenyl)acetamide (1.93 g, 8.5 mmol) were dissolved in anhydrous tetrahydrofuran (40 mL) and triethylamine (1.0 mL). The mixture was stirred at room temperature for 1 h then heated at reflux for 4 h to generate the 2,6-dichlorophenyl nitrile oxide intermediate, which reacted by a 1,3-dipolar cycloaddition reaction with 2,2-dichloro-N-(2-ethynylphenyl)acetamide. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed successively with water and brine. The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting solid was purified by column chromatography on silica gel, eluting with 8:2 hexanes-ethyl acetate. The appropriate fractions were combined to give 2,2-dichloro-N-[2-[3-(2,6-dichlorophenyl)-5-isoxazolyl]phenyl]acetamide as a light brown solid, 1.24 g.

reactant | 2,6-Dichloro-N-hydroxybenzenecarboximidoyl chloride | 5.6 mmol, 1.25 g | ClC1=C(C(=CC=C1)Cl)C(=NO)Cl | C7H4Cl3NO
reactant | 2,2-dichloro-N-(2-ethynylphenyl)acetamide | 8.5 mmol, 1.93 g | ClC(C(=O)NC1=C(C=CC=C1)C#C)Cl | C10H7Cl2NO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
product | 2,2-dichloro-N-[2-[3-(2,6-dichlorophenyl)-5-isoxazolyl]phenyl]acetamide | ClC(C(=O)NC1=C(C=CC=C1)C1=CC(=NO1)C1=C(C=CC=C1Cl)Cl)Cl | C17H10Cl4N2O2
